US06355799B1
Preparation of 3-(4-chloro-6-fluoro-3-hydroxy-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 1-2)
3-(4-chloro-2-fluoro-5-hydroxyphenyl)6-trifluoromethyl-2,4(1H,3H)-pyrmidinedione (2.5 g) was added to an ice cooled con. nitric acid (50 ml). After stirring for 1 hr, the reaction mixture was poured into ice-cold water. The yellow crystals were collected by filtration to afford the title compound (0.9 g). The filtrate was extracted by ethyl acetate (200 ml) and washed with brine. The organic phase was dried over anhydrous sodium sulfate. After removal of the solvent, 0.6 g of title compound was obtained as yellow crystal.

reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)6-trifluoromethyl-2,4(1H,3H)-pyrmidinedione | 2.5 g | ClC1=CC(=C(C=C1O)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C11H5ClF4N2O3
reactant | nitric acid | 50 ml | [N+](=O)(O)[O-] | HNO3
product | 3-(4-chloro-6-fluoro-3-hydroxy-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 0.9 g | ClC1=C(C(=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O)[N+](=O)[O-])O | C11H4ClF4N3O5
